US08133907B2
2-[(4R,5S)-3-tert-Butoxycarbonyl-4-(2-fluoro-benzyl)-2,2-dimethyl-oxazolidin-5-ylmethyl]-nicotinic acid methyl ester
To a solution of 2-[(R)-3-tert-butoxycarbonyl-4-(2-fluoro-benzyl)-2,2-dimethyl-oxazolidin-5-ylmethyl]-nicotinic acid (11 g, 25 mmol) in 200 mL of benzene and 30 mL of methanol is added a 2M solution of trimethylsilyl-diazomethane in hexane (16 mL, 32 mmol). The reaction is allowed to stir for 1 hour at RT after which time the solvent is removed under reduced pressure. Purification of the resultant residue by silica gel flash column chromatography gives the title compound.

reactant | 2-[(R)-3-tert-butoxycarbonyl-4-(2-fluoro-benzyl)-2,2-dimethyl-oxazolidin-5-ylmethyl]-nicotinic acid | 25 mmol, 11 g | C(C)(C)(C)OC(=O)N1C(OC([C@H]1CC1=C(C=CC=C1)F)CC1=C(C(=O)O)C=CC=N1)(C)C | C24H29FN2O5
reactant | trimethylsilyl-diazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | hexane | 32 mmol, 16 mL | CCCCCC | C6H14
solvent | benzene | 200 mL | C1=CC=CC=C1 | C6H6
solvent | methanol | 30 mL | CO | CH4O
product | 2-[(4R,5S)-3-tert-Butoxycarbonyl-4-(2-fluoro-benzyl)-2,2-dimethyl-oxazolidin-5-ylmethyl]-nicotinic acid methyl ester | COC(C1=C(N=CC=C1)C[C@H]1[C@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CC1=C(C=CC=C1)F)=O | C25H31FN2O5
